US08168828B2
Step c): Preparation of 3-cyano-N,N-diethyl-5-methylhexanamide
Added 3.46 grams of compound N,N-diethyl-5-methylhex-2-enamide (formula-4-a) to a mixture of 0.863 gram of potassium cyanide and 3.5 grams of ethanol. Stirred the reaction mixture for 18 hours at 25-40° C. Added 4.45 ml of hexane to the reaction mixture. Added 0.875 gram of glacial acetic acid to the reaction mixture at 35° C. Quenched the reaction mixture with water. Separated the organic and aqueous phases. Extracted the aqueous phase with hexane. Washed the organic layer with water. Distilled the organic phase under reduced pressure to get the title compound as a residue

reactant | N,N-diethyl-5-methylhex-2-enamide | C(C)N(C(C=CCC(C)C)=O)CC | C11H21NO
reactant | potassium cyanide | 0.863 gram | [C-]#N.[K+]
reactant | ethanol | 3.5 grams | C(C)O | C2H6O
reactant | hexane | 4.45 ml | CCCCCC | C6H14
solvent | acetic acid | 0.875 gram | C(C)(=O)O | C2H4O2
product | 3-cyano-N,N-diethyl-5-methylhexanamide | C(#N)C(CC(=O)N(CC)CC)CC(C)C | C12H22N2O
